US05681958
Phenylmercaptoacetyl Chloride
To thiophenoxyacetic acid (8 g, 0.05 mol) was added SOCl2 (8 mL) and the reaction mixture was heated to reflux for 1 h. TLC showed disappearance of the starting material. The excess SOCl2 was removed in vacuo under a fume hood and the product was distilled to afford 8.6 g (98%) of the title compound, bp 85°-86° C., 4-5 Torr [lit 117°-119° C., 6 Torr (Mooradian, A.; Cavallito, C. J.; Bergman, A. J.; Lawson, E. J.; Suter, C. M. J. Am. Chem. Soc. 1949, 3372)]; 1H NMR (CDCl3) δ 7.48-7.34 (m, 5H), 4.06 (m, 2H); 13C NMR (CDCl3) 169.75, 132.83, 131.44, 129.35, 128.22, 48.48; MS (EI, m/z) 186 (M+).

reactant | thiophenoxyacetic acid | 0.05 mol, 8 g | S(C1=CC=CC=C1)CC(=O)O | C8H8O2S
reactant | SOCl2 | 8 mL | O=S(Cl)Cl | Cl2OS
product | Phenylmercaptoacetyl Chloride | 8.6 g, 98% | C1(=CC=CC=C1)SCC(=O)Cl | C8H7ClOS
